US06884890B2
5-Chloro-2-methyl-4-[2-(trimethyl-silanyl)-ethoxymethoxy]-phenyl-boronic acid was prepared in 54% yield from [2-(4-bromo-2-chloro-5-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane according to the procedure for 5-methoxy-2-methyl-[2-(trimethyl-silanyl)-ethoxymethoxy]-phenyl-boronic acid. 1H NMR (300 MHz, CDCl3) δ 8.11 (s. 1H), 7.09 (s, 1H), 5.37 (s, 2H), 3.84 (t, 2H, J=8.4 Hz), 2.76 (s, 3H), 0.98 (t, 2H, J=8.4 Hz), 0.01 (s, 9H). Anal. (C13H22BClO4Si—H2O)C, H. Calculated: C, 52.28; H, 6.75. Found: C, 51.98; H. 6.84.

reactant | [2-(4-bromo-2-chloro-5-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane | BrC1=CC(=C(OCOCC[Si](C)(C)C)C=C1C)Cl | C13H20BrClO2Si
reactant | 5-methoxy-2-methyl-[2-(trimethyl-silanyl)-ethoxymethoxy]-phenyl-boronic acid | COC=1C=CC(=C(C1)B(OOCOCC[Si](C)(C)C)O)C | C14H25BO5Si
product | 5-Chloro-2-methyl-4-[2-(trimethyl-silanyl)-ethoxymethoxy]-phenyl-boronic acid | 54% yield | ClC=1C(=CC(=C(C1)B(O)O)C)OCOCC[Si](C)(C)C | C13H22BClO4Si
